US06340759B1
(1-2) 3-(4-Benzyloxybutyl)isoquinoline-2oxide
2-[2-(4-Benzyloxybutyl)ethynyl]-5-methoxybenzaldehyde (2.60 g), hydroxylamine hydrochloride (0.63 g) and sodium acetate (0.78 g) were reacted in ethanol (30 ml) at 60° C. for 2 hr. Potassium carbonate (2.0 g) and water (5 ml) were added to the resulting reaction mixture, which was then heated under reflux for 12 hr. The reaction solution was evaporated, and the resulting residue was extracted with methylene chloride, washed with brine, and then dried. The solvent was removed and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 2.0 g of the title compound as a brown amorphous.

reactant | 2-[2-(4-Benzyloxybutyl)ethynyl]-5-methoxybenzaldehyde | 2.60 g | C(C1=CC=CC=C1)OCCCCC#CC1=C(C=O)C=C(C=C1)OC | C21H22O3
reactant | hydroxylamine hydrochloride | 0.63 g | Cl.NO
reactant | sodium acetate | 0.78 g | C(C)(=O)[O-].[Na+]
reactant | Potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-(4-Benzyloxybutyl)isoquinoline-2oxide | 2.0 g | C(C1=CC=CC=C1)OCCCCC=1[N+](=CC2=CC=CC=C2C1)[O-] | C20H21NO2
